US05242996
Analogous to Example 1, 475 g 1,4-diglycidyloxybutane was reacted with 528 g of propargyl alcohol to give 1,4-bis(3-propargyloxy-2-hydroxypropyl) oxybutane.

reactant | 1,4-diglycidyloxybutane | 475 g | C(C1CO1)OCCCCOCC1CO1 | C10H18O4
reactant | propargyl alcohol | 528 g | C(C#C)O | C3H4O
product | 1,4-bis(3-propargyloxy-2-hydroxypropyl) oxybutane | C(C#C)OCC(COCCCCOCC(COCC#C)O)O | C16H26O6
